US04080505
In 150 ml of acetone is dissolved 16.8 g of 4-(2,2-dimethyl-2-phenylethyloxy)aniline and, under cooling with ice and stirring, 20 ml of hydrochloric acid, a solution of 6 g sodium nitrite in 20 ml water, 75 ml of ethyl acrylate and 0.3 g of finely divided cuprous oxide are added in the order mentioned. The mixture is stirred at 10° C for 30 minutes and at room temperature for 2 hours. After the reaction has been completed, the reaction mixture is concentrated under reduced pressure and extracted with ether. The ether is distilled off and residual oil is purified by chromatography on silica gel. The described procedure yields 17.7 g of ethyl 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionate as a yellowish oily product. Cyclohexane/benzene is used as the eluant solvent (1:1). Boiling point: 205°-206° C/0.9 mmHg

reactant | 4-(2,2-dimethyl-2-phenylethyloxy)aniline | 16.8 g | CC(COC1=CC=C(N)C=C1)(C1=CC=CC=C1)C | C16H19NO
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium nitrite | 6 g | N(=O)[O-].[Na+]
reactant | acetone | 150 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
solvent | ethyl acrylate | 75 ml | C(C=C)(=O)OCC | C5H8O2
product | ethyl 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionate | 17.7 g | ClC(C(=O)OCC)CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C | C21H25ClO3
